US09290454B2
Hydroxylamine hydrochloride (314 mg, 4.52 mmol) was added to a stirred, room temperature mixture of tert-butyl 5-(2-(4-fluorophenyl)-6-formyl-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (638 mg, 1.507 mmol) and sodium acetate (742 mg, 9.04 mmol) in ethanol (10 mL), and the mixture was stirred at room temperature for 1 h. The mixture was diluted with dichloromethane (60 mL), washed with brine (saturated, 1×30 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure to give tert-butyl 5-(2-(4-fluorophenyl)-6-((hydroxyimino)methyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (658 mg, 1.501 mmol) as a white solid.

reactant | Hydroxylamine hydrochloride | 4.52 mmol, 314 mg | Cl.NO
reactant | tert-butyl 5-(2-(4-fluorophenyl)-6-formyl-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 1.507 mmol, 638 mg | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)OC(C)(C)C)C=O)=O | C25H26FNO4
reactant | sodium acetate | 9.04 mmol, 742 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | tert-butyl 5-(2-(4-fluorophenyl)-6-((hydroxyimino)methyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 1.501 mmol, 658 mg | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)OC(C)(C)C)C=NO)=O | C25H27FN2O4
